US06548522B1
N-Pentyl-2,2-diphenyl-propionamide
The title compound, colorless oil, MS: m/e=295 (M+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl chloride and pentylamine.

reactant | 2,2-diphenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
reactant | pentylamine | C(CCCC)N | C5H13N
product | N-Pentyl-2,2-diphenyl-propionamide | C(CCCC)NC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H25NO
